US07138491B2
The preparation of Boc-Pro-Ala-Lys(ClZ)-OH
At 0° C. to the solution of 135 mg (0.2 mmol) of Boc-Pro-Ala-Lys(ClZ)-OBzl in 5 ml of methanol 5 ml of the solution of NaOH in methanol (2 mol/L) were added. The reaction mixture was stirred at 0° C. for 2 h and TLC (chloroform/methanol, 15:1) indicated complete disappearance of Boc-Pro-Ala-Lys(ClZ)-OBzl. The reaction mixture was neutralized to pH 7 and evaporated at room temperature to remove methanol. The residue was acidified to pH 1–2 with hydrochloric acid (2 mol/L) to provide 100 mg (86%) of the title compound as a colorless powder.

reactant | Boc-Pro-Ala-Lys(ClZ)-OBzl | 0.2 mmol, 135 mg | N1([C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C34H45ClN4O8
reactant | NaOH | [OH-].[Na+]
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 2 mol/L | CO | CH4O
product | Boc-Pro-Ala-Lys(ClZ)-OH | 100 mg, 86% | N1([C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)O)CCC1)C(=O)OC(C)(C)C | C27H39ClN4O8
